US06326386B1
2-(5Bromo-3-methoxycarbonyl-phenoxy)-N-Pyridin-4-yl-acetamide
A solution of 2-(5-bromo-3-methoxycarbonyl-phenoxy)-acetic acid (10.6 g), TBTU (19.3 g) and HOBt (5.1 g) in dry DMF (50 ml) was treated with DIPEA (9.9 ml). The resulting solution was stirred under a nitrogen atmosphere and was then treated with 4-aminopyridine (3.6 g) after 30 min. The resulting mixture was stirred for 18 h and then concentrated at reduced pressure to give a yellow viscous gum which was partitioned between ethyl acetate and water. The aqueous layer was removed and the organic phase washed with further water, 1M sodium hydroxide solution, aqueous saturated ammonium chloride, water and dried with brine and over sodium sulphate. The organic phase was concentrated under reduced pressure giving the title compound as a yellow solid (6.60 g).

reactant | 2-(5-bromo-3-methoxycarbonyl-phenoxy)-acetic acid | 10.6 g | BrC=1C=C(C=C(OCC(=O)O)C1)C(=O)OC | C10H9BrO5
reactant | TBTU | 19.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 5.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 9.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-aminopyridine | 3.6 g | NC1=CC=NC=C1 | C5H6N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(5Bromo-3-methoxycarbonyl-phenoxy)-N-Pyridin-4-yl-acetamide | 6.60 g | BrC=1C=C(C=C(OCC(=O)NC2=CC=NC=C2)C1)C(=O)OC | C15H13BrN2O4
